US06498154B1
A mixture of 6-bromo-4,4-dimethyl-2-(trifluoromethyl)-I,4-dihydro-2H-3,1-benzoxazine (0.5 g, 1.61 mmol), 3-cyano-5-fluorobenzeneboronic acid (0.39 g, 1.8 mmol), tetrakis(triphenylphosphine)-palladium (0) (0.2 g, 0.161 mmol), and sodium carbonate (0.5 g, 4.83 mmol) in DME (50 mL) and water (25 mL) was subject to a blanket of nitrogen flow for 15 minutes at 50° C. and then was heated at 85° C. under nitrogen for 1 hour. The reaction mixture was cooled to room temperature and ethyl acetate (200 mL) was added. The organic layer was washed twice with aqueous ammonium chloride (20 mL) and once with brine (20 mL), dried over sodium sulfate and concentrated to a yellow solid. Purification via flash column chromatography (silica gel, 5% ethyl acetate/hexane) gave 3-[4,4-dimethyl-2-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-6-yl]-5-fluorobenzonitrile (0.396 g, 73%) as a white solid: mp 102-103° C.; 1H-NMR (DMSO-d6) δ 8.07 (s, 1H), 7.91 (d, 1H, J=10.7 Hz), 7.7 (d, 1H, J=10.7 Hz) 7.62 (d, 1H, J=1.98 Hz), 7.53 (dd, 1H, J=8.33, 1.98 Hz), 7.05 (s, 1H), 6.87 (d, 1H, J=8.33 Hz), 5.39-5.37 (m, 1H), 1.61 (s, 3H), 1.59 (s, 3H); MS (ES) m/z 349 ([M−H]−).

reactant | 6-bromo-4,4-dimethyl-2-(trifluoromethyl)-I,4-dihydro-2H-3,1-benzoxazine | 1.61 mmol, 0.5 g | BrC=1C=CC2=C(C(OC(N2)C(F)(F)F)(C)C)C1 | C11H11BrF3NO
reactant | 3-cyano-5-fluorobenzeneboronic acid | 1.8 mmol, 0.39 g | C(#N)C=1C=C(C=C(C1)F)B(O)O | C7H5BFNO2
reactant | sodium carbonate | 4.83 mmol, 0.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | DME | 50 mL | COCCOC | C4H10O2
solvent | water | 25 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)-palladium (0) | 0.161 mmol, 0.2 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-[4,4-dimethyl-2-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-6-yl]-5-fluorobenzonitrile | 0.396 g, 73% | CC1(OC(NC2=C1C=C(C=C2)C=2C=C(C#N)C=C(C2)F)C(F)(F)F)C | C18H14F4N2O
